US07547690B2
Neat Iodomethane (0.173 ml, 2.77 mmol) was added dropwise to a stirred solution of 9-benzyl-3,9-diazabicyclo[4.2.1]nonane (0.4 g, 1.849 mmol) and TEA (2.58 ml, 18.49 mmol) in THF (5 ml). The resultant suspension was stirred at rt for 3 hrs and diluted with ether and then filtered. The filtrate was evaporated to dryness to afford 9-benzyl-3-methyl-3,9-diazabicyclo[4.2.1]nonane as a light yellow oil. LC/MS: m/e 231 (MH+).

reactant | Iodomethane | 2.77 mmol, 0.173 ml | IC | CH3I
reactant | 9-benzyl-3,9-diazabicyclo[4.2.1]nonane | 1.849 mmol, 0.4 g | C(C1=CC=CC=C1)N1C2CNCCC1CC2 | C14H20N2
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | 9-benzyl-3-methyl-3,9-diazabicyclo[4.2.1]nonane | C(C1=CC=CC=C1)N1C2CN(CCC1CC2)C | C15H22N2
